US07459451B2
A mixture of [4-(2-chloro-4-pyridyl)-1-ethyl-6-methyl-1H-pyrazolo[3,4-b]pyridin-5-yl]methanol (30 mg), pyridinium chlorochromate (34.2 mg), sodium acetate (5.7 mg) in DCM (2 ml) was stirred at room temperature for 2 hours. The reaction mixture was diluted with diethylether and filtrated through celite pad. After evaporation of filtrate, the residue was purified by flash column chromatography on silica gel eluting with a mixture of EtOAc and n-hexane (1:4) to give 4-(2-chloro-4-pyridyl)-1-ethyl-6-methyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde (29 mg) as a white crystal.

reactant | [4-(2-chloro-4-pyridyl)-1-ethyl-6-methyl-1H-pyrazolo[3,4-b]pyridin-5-yl]methanol | 30 mg | ClC1=NC=CC(=C1)C1=C2C(=NC(=C1CO)C)N(N=C2)CC | C15H15ClN4O
reactant | pyridinium chlorochromate | 34.2 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | sodium acetate | 5.7 mg | C(C)(=O)[O-].[Na+]
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | diethylether | C(C)OCC | C4H10O
product | 4-(2-chloro-4-pyridyl)-1-ethyl-6-methyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde | 29 mg | ClC1=NC=CC(=C1)C1=C2C(=NC(=C1C=O)C)N(N=C2)CC | C15H13ClN4O
